US05245027
Diphenylmethyl 7-Phenoxyacetamido-3-vinyl-3-cephem-4-carboxylate
A solution of palladium (II) acetate (3.6 mg, 0.016 mmol, 0.1 eq.) in 1-methyl-2-pyrrolidinone (2 mL) was treated with vinyl tri-n-butylstannane (58.4 mL, 0.2 mmol, 1.2 eq.) under an inert atmosphere and allowed to stir for 3 minutes. The resulting dark suspension was then treated with diphenylmethyl 7-phenoxyacetamido-3-[(fluorosulfonyl) oxy]-3-cephem-4-carboxylate (100.0 mg, 0.16 mmol, 1.0 eq.) in one portion and the reaction mixture was allowed to stir for 10 minutes. The reaction mixture was diluted with ethyl acetate and washed with 3×20 mL of water. The organic fraction was dried over magnesium sulfate then concentrated. The crude brown residue was purified by flash filtration through a pad of silica gel (W. R. Grace, 951W) first with dichloromethane (50 mL) to remove the residual stannane and then with 10% ethyl acetate in dichloromethane (75 mL), which upon concentration furnished 74.8 mg (85%) of the title compound as a white solid.

reactant | vinyl tri-n-butylstannane | 0.2 mmol, 58.4 mL, 1.2 eq. | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | diphenylmethyl 7-phenoxyacetamido-3-[(fluorosulfonyl) oxy]-3-cephem-4-carboxylate | 0.16 mmol, 100.0 mg, 1.0 eq. | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)F)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H23FN2O8S2
solvent | 1-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium (II) acetate | 0.016 mmol, 3.6 mg, 0.1 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Diphenylmethyl 7-Phenoxyacetamido-3-vinyl-3-cephem-4-carboxylate | 74.8 mg, 85% | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H26N2O5S
